US08034558B2
6-(2-Amino-9-oxo-9H-acridin-10-yl)hexanoic acid (370 mg: 1.14 mmol) was dissolved in anhydrous pyridine (10 ml) and acetic anhydride (100 μl) followed by diisopropylethylamine (350 μl). The mixture was stirred for 3 hours. The solution was evaporated to dryness under vacuum and the gummy residue dissolved in dichloromethane. The solution was washed with 1.0M hydrochloric acid and then brine. The organic phase was dried with anhydrous magnesium sulphate, filtered and the solvent removed by rotary evaporation to leave a sticky solid. Trituration with ether gave a solid which was dried under vacuum to give 360 mg (86%) of 6-(2-acetamido-9-oxo-9H-acridin-10-yl)hexanoic acid.

reactant | 6-(2-Amino-9-oxo-9H-acridin-10-yl)hexanoic acid | 1.14 mmol, 370 mg | NC1=CC=2C(C3=CC=CC=C3N(C2C=C1)CCCCCC(=O)O)=O | C19H20N2O3
reactant | acetic anhydride | 100 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | diisopropylethylamine | 350 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ether | CCOCC | C4H10O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-(2-acetamido-9-oxo-9H-acridin-10-yl)hexanoic acid | 360 mg, 86% | C(C)(=O)NC1=CC=2C(C3=CC=CC=C3N(C2C=C1)CCCCCC(=O)O)=O | C21H22N2O4
